US07799922B2
f.) 2-Amino-3-cyano-4-benzalamino-6-dimethylaminoquinoline:
3 g of 2-amino-3-cyano-4-chloro-6-dimethylaminoquinoline and 6 mL of benzylamine are stirred at 125° C. for 3 hours. The reaction mixture is poured onto 30 mL of water. The precipitated material is filtered off, washed with 20 mL of water. After drying 2.3 g of the title compound is obtained, m.p.: 265° C.

reactant | 2-amino-3-cyano-4-chloro-6-dimethylaminoquinoline | 3 g | NC1=NC2=CC=C(C=C2C(=C1C#N)Cl)N(C)C | C12H11ClN4
reactant | benzylamine | 6 mL | C(C1=CC=CC=C1)N | C7H9N
solvent | water | 30 mL | O | H2O
product | 2-Amino-3-cyano-4-benzalamino-6-dimethylaminoquinoline | NC1=NC2=CC=C(C=C2C(=C1C#N)N=CC1=CC=CC=C1)N(C)C | C19H17N5
